US04294841
The procedure is as in Example 11 starting from 2.9 g of 4-fluoroacetophenone and 3 g of pyridine-4-carbaldehyde, but using a solution of tetramethylammonium hydroxide in methanol instead of the aqueous solution of sodium hydroxide. 1-(4-fluorophenyl) 3-(4-pyridyl) 2-propene-1-one which melts at 157° C. is obtained.

reactant | 4-fluoroacetophenone | 2.9 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | pyridine-4-carbaldehyde | 3 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(4-fluorophenyl) 3-(4-pyridyl) 2-propene-1-one | FC1=CC=C(C=C1)C(C=CC1=CC=NC=C1)=O | C14H10FNO
